US04359420
A mixture of 1.84 g (6.8 mmol) of 4,5-dihydro-3-(1-hydroxypropyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one, 16 g of manganese dioxide and 150 ml of methylene chloride is stirred at room temperature under an argon atmosphere for 2 hours. The manganese dioxide is filtered off under suction over a glass filter and the filtrate is evaporated in vacuo. After recrystallisation of the residue from 100 ml of ethyl acetate, there is obtained 4,5-dihydro-5-methyl-3-propionyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 215°-216° C.

reactant | 4,5-dihydro-3-(1-hydroxypropyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 6.8 mmol, 1.84 g | OC(CC)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C15H17N3O2
catalyst | manganese dioxide | 16 g | [O-2].[O-2].[Mn+4]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 4,5-dihydro-5-methyl-3-propionyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(CC)=O | C15H15N3O2
